US07405302B2
Step 2: Ethyl (Z)-2-Azido-3-(5-methoxy-pyridin-3-yl)-acrylate
To a cooled (−15° C.) solution of anhydrous EtOH (270 mL) was added sodium metal (4.46 g, 0.194 mol) slowly. After complete reaction a mixture of 3-formyl-5-methoxypyridine (7.5 g, 54.7 mmol) and ethylazidoacetate (25.0 g, 0.194 mol) was added so as to maintain an internal temperature of −15° C. The reaction mixture was kept at −15° C. for 72 hours after which it was poured into a 30% aq. NH4Cl solution, extracted with EtOAc (2×250 mL), the organic phase dried (MgSO4), filtered and evaporated in vacuo. The residue was purified on silica gel eluting with a gradient of 0 to 35% EtOAc in hexanes to afford the title compound.

reactant | sodium | 0.194 mol, 4.46 g | [Na] | Na
reactant | 3-formyl-5-methoxypyridine | 54.7 mmol, 7.5 g | C(=O)C=1C=NC=C(C1)OC | C7H7NO2
reactant | ethylazidoacetate | 0.194 mol, 25.0 g | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | EtOH | 270 mL | CCO | C2H6O
product | Ethyl (Z)-2-Azido-3-(5-methoxy-pyridin-3-yl)-acrylate | N(=[N+]=[N-])\C(\C(=O)OCC)=C/C=1C=NC=C(C1)OC | C11H12N4O3
